US08242280B2
2-{4-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-2-yl}-N,N-dimethyl-2-oxo-acetamide was 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (493 mg, 0.977 mmol), 2-(4-bromo-pyridin-2-yl)-2-cyano-N,N-dimethyl-acetamide (80%, 391 mg, 1.46 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (39.8 mg, 0.048 mmol) were combined in a vial under nitrogen and dissolved in acetonitrile (2.5 mL) and toluene (2.5 mL). Saturated sodium bicarbonate (5 mL) was added and the system was purged with nitrogen gas. The reaction mixture was capped and heated for 15 h at 80° C. The cooled mixture was diluted with ethyl acetate and washed with brine. The combined organic layers were dried over sodium sulfate and purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford 2-cyano-2-{4-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-2-yl}-N,N-dimethyl-acetamide.

reactant | 2-{4-[3-(2-Methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-2-yl}-N,N-dimethyl-2-oxo-acetamide | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C2=CC(=NC=C2)C(C(=O)N(C)C)=O)S(=O)(=O)C2=CC=C(C=C2)C | C30H26N4O5S
reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.977 mmol, 493 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 2-(4-bromo-pyridin-2-yl)-2-cyano-N,N-dimethyl-acetamide | 1.46 mmol, 391 mg | BrC1=CC(=NC=C1)C(C(=O)N(C)C)C#N | C10H10BrN3O
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-cyano-2-{4-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-pyridin-2-yl}-N,N-dimethyl-acetamide | C(#N)C(C(=O)N(C)C)C1=NC=CC(=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C31H27N5O4S
